US08106086B2
Production of 2-(1,5-dihydro-3-trifluoromethyl-5-oxo-1-phenyl-4H-pyrazol-4-ylidene)-3,3,3-trifluoro-propanoic acid methyl ester
To a toluene solution (5 ml) of α-hydroxy-2,5-dihydro-5-oxo-1-phenyl-α-trifluoromethyl-3-trifluoromethyl-1H-pyrazole-4-acetic acid methyl ester (192 mg, 0.5 mmol), thionyl chloride (0.365 ml, 5.0 mmol) was added and the mixture was stirred under reflux for 3 hours. After concentrating the liquid reaction mixture under reduced pressure, the title compound was obtained as a reddish brown solid (183 mg).

reactant | α-hydroxy-2,5-dihydro-5-oxo-1-phenyl-α-trifluoromethyl-3-trifluoromethyl-1H-pyrazole-4-acetic acid methyl ester | 0.5 mmol, 192 mg | COC(C(C1=C(NN(C1=O)C1=CC=CC=C1)C(F)(F)F)(C(F)(F)F)O)=O | C14H10F6N2O4
reactant | thionyl chloride | 5.0 mmol, 0.365 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1,5-dihydro-3-trifluoromethyl-5-oxo-1-phenyl-4H-pyrazol-4-ylidene)-3,3,3-trifluoro-propanoic acid methyl ester | COC(C(C(F)(F)F)=C1C(=NN(C1=O)C1=CC=CC=C1)C(F)(F)F)=O | C14H8F6N2O3
